US04298749
3-Benzylthio-5-methyl-4-methoxycarbonyl pyrazole
At room temperature, 47 g of methyl 2-chloroacetate is added to a solution of 55 g of dithiocarbazic acid-S-benzyl ester in 250 ml of tetrahydrofuran. After stirring for 16 hours at room temperature, the precipitated solids mixture is filtered and washed with diethyl ether, and the residue is stirred into 200 ml of 12% strength ammonia solution. The product has the sulfur removed from it by extraction with methylene chloride. After drying over sodium sulfate, the methylene chloride is distilled off and the solid which remains is recrystallized from ethyl acetate. Melting point: 109°-110° C.

reactant | methyl 2-chloroacetate | 47 g | ClCC(=O)OC | C3H5ClO2
reactant | dithiocarbazic acid-S-benzyl ester | 55 g | C(C1=CC=CC=C1)SC(NN)=S | C8H10N2S2
reactant | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 3-Benzylthio-5-methyl-4-methoxycarbonyl pyrazole | C(C1=CC=CC=C1)SC1=NNC(=C1C(=O)OC)C | C13H14N2O2S
